US08030300B2
5-(6-Hydroxy-1-hexanyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine:
A mixture of 5-(6-hydroxy-1-hexynyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine (50 mg, 0.17 mmol), 10% Pd—C (10 mg), and EtOAc (5 mL) was stirred under H2 (1 atm) at room temperature for 3 h. The reaction mixture was filtered through Celite and washed with MeOH. The filtrate was concentrated to provide an oil (50 mg, 99%), [α]D−31 (c 1.6, CHCl3). 1H NMR (CDCl3) δ 8.12 (d, 1H, J=2.4 Hz), 8.03 (d, 1H, J=1.5 Hz), 7.03 (t, 1H, J=2.1 Hz), 4.02 (dd, 1H, J=9.3, 5.4 Hz), 3.92 (dd, 1H, J=9.3, 5.4 Hz), 3.62 (t, 2H, J=6.6 Hz), 3.16-3.09 (m, 1H), 2.72-2.63 (m, 1H), 2.58 (t, 2H, J=7.5 Hz), 2.48 (s, 3H), 2.50 (br s, 1H), 2.31 (td, 1H, J=9.3, 7.5 Hz), 2.10-1.97 (m, 1H), 1.93-1.28 (m, 11H); 13C NMR (CDCl3) δ 155.02, 142.17, 138.54, 134.89, 121.29, 70.93, 64.13, 62.48, 57.67, 41.67, 32.64, 32.58, 30.86, 28.79, 28.48, 25.48, 22.94.

reactant | 5-(6-hydroxy-1-hexynyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine | 0.17 mmol, 50 mg | OCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C17H24N2O2
catalyst | Pd—C | 10 mg | [Pd] | Pd
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 5-(6-Hydroxy-1-hexanyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine | 50 mg, 99% | OCCCCCCC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C17H28N2O2
